US05072056
Nitromethylbenzene
184.1 g. (1.51 mole) of benzaldehyde oxime and 185 ml. of glacial acetic acid are placed in a 3 liter 3 neck flask. The mixture is stirred and heated to 80° C. A solution of 344.1 g. (1.65 mole) of 36.6% peracetic acid and 19 g. of sodium acetate trihydrate is added at a rate such that the temperature is maintained between about 80° and about 90° C. Stirring is continued at about 85° C. for about 3 1/2 hours until there is no oxime. The reaction mixture is chilled to 25° C. and one liter of water is added and the mixture stirred well and the oil which forms, is separated. The aqueous layer is extracted twice with 200 ml. of methylene chloride. The aqueous extract is combined with the oil layer and washed twice with 600 ml. of water and once with 600 ml. of 5% sodium bicarbonate solution, washed again with 400 ml. of water, and dried over sodium sulfate and concentrated to a light orange oil. The yield is 173.5 g. (84%) of 97% pure material by GC.

reactant | benzaldehyde oxime | 1.51 mole | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | peracetic acid | 1.65 mole | C(C)(=O)OO | C2H4O3
reactant | sodium acetate trihydrate | O.O.O.C(C)(=O)[O-].[Na+]
solvent | water | one liter | O | H2O
product | Nitromethylbenzene | [N+](=O)([O-])CC1=CC=CC=C1 | C7H7NO2
